2103-10-11 06:22:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2103-10-11**] 12:30 AM
 CHEST PAIN - At [**2103-10-11**] 12:30 AM
 INVASIVE VENTILATION - START [**2103-10-11**] 02:23 AM
 MULTI LUMEN - START [**2103-10-11**] 02:27 AM
 ARTERIAL LINE - START [**2103-10-11**] 02:56 AM
   Pt stable throughout day after arrival to floor.  Called to bedside at
   MN for acute distress. Pt found to be tachypneic, 02 sats high 90s.
   Very cold and clammy.  Slightly altered. BP initially stable. Unable to
   get oral temperature, rectal temp 98. Given Nebs, 02. c/o chest pain.
   Given 0.5mg morphine. ECG unchanged/uninterpretable in setting of known
   LBBB.  CXR unchanged. BPs erratic, unable to measure pressure or 02 sat
   as pt became more clamped down.  Became more obtunded.  Initial labs
   notable for neg CEs, Hct increased to 50, persistent leukocytosis.
   Right femoral access was obtained. Initial attempts to place a-line
   unsuccsesful due to absence of peripheral pulses. Pt bolused 3L,
   started on pressors, initially dopamine, then levo added once CVL
   placed.   Due to obtundation, inability to monitor 02 sat and
   difficulty acquiring information from arterial blood gas, anaesthesia
   was called and emergent intubation was performed with etomidate.
   Anaesthesia able to place femoral arterial line.  Pt had emergent TTE
   that showed new global hypokinesis with EF ~10% (last [**3-23**] was
   40-50%).  Initial ABG after intubation: 7.12/42/341, lactate 7.7 up
   from 2.8 at time of admission.  Pt transitioned to dobutamine, RR
   increased.  Skin perfusion improved, however repeat ABG worse at
   7.06/44/251 lactate 8.  Vent settings changed to CPAP.  Zosyn started.
   Bicarb gtt started.  Pt hyperkalemic to 6, given insulin/D5, ca
   gluconate. [**Name (NI) **] brother [**Name (NI) **] [**Name (NI) 4803**] was called and notified of
   patient's status.  Dopamine added back on.  LFTs continue to rise.  Pt
   headed to CT for CT with gastrograffin contrast only.  Oliguric.
   Allergies:
   Univasc (Oral) (Moexipril Hcl)
   Cough;
   Lipitor (Oral) (Atorvastatin Calcium)
   leg cramps;
   Vitamin E
   epistaxis;
   Ambien (Oral) (Zolpidem Tartrate)
   disorientatio
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 100 mcg/hour
   Dobutamine - 8 mcg/Kg/min
   Dopamine - 5 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2103-10-10**] 04:00 PM
   Morphine Sulfate - [**2103-10-11**] 12:31 AM
   Midazolam (Versed) - [**2103-10-11**] 04:39 AM
   Dextrose 50% - [**2103-10-11**] 05:49 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2103-10-11**] 06:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.6
C (96
   Tcurrent: 35.6
C (96
   HR: 75 (69 - 106) bpm
   BP: 109/53(75) {109/53(75) - 160/101(122)} mmHg
   RR: 21 (9 - 41) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                    130 mL
                                                                  2,797 mL
   PO:
                                                                     60 mL
             TF:
   IVF:
                                                                     70 mL
                                                                  2,747 mL
   Blood products:
   Total out:
                                                                    495 mL
                                                                     25 mL
   Urine:
                                                                    495 mL
                                                                     25 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -365 mL
                                                                  2,772 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 627 (627 - 627) mL
   PS : 10 cmH2O
   RR (Set): 20
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 16 cmH2O
   Plateau: 13 cmH2O
   SpO2: 93%
   ABG: 7.06/44/251/11/-17
   Ve: 12.6 L/min
   PaO2 / FiO2: 502
   Physical Examination
   General: Drowsy, easily arousable, frail appearing elderly gentleman in
   NAD
   HEENT: small tender pink swelling on occiput, ttp on right mastoid
   process. Thrush.  MMM.  conjunctiva not pale or injected. no scleral
   icterus.
   Neck: s/p radiation. No bruits.
   Pulmonary: Diminished air exchange b/l, slight rhonchi, clear with
   coughing.  wheezes on forced expiration. diminished  bs right base with
   pneumonectomy scar.
   Cardiac: RR, nl S1 S2, no murmurs, rubs or gallops appreciated
   Abdomen: s/p AAA repair scar. No HSM. negative [**Doctor Last Name **]. No abdominal
   bruit. + BS, soft ND/NT
   Extremities: No edema. cool. 1+ TP pulses.  Small ecchymosis with
   excoriation to right of coccyx. No midline tenderness.
   Skin: no rashes or lesions noted.
   Neurologic: Drowsy. Oriented x 3. Falling asleep during conversation
   but easily arousable.  Follows all commands.  Poor short term memory.
   CN II- XII intact.  Moving all extremities symetrically.
   Labs / Radiology
   133 K/uL
   13.2 g/dL
   101 mg/dL
   2.1 mg/dL
   11 mEq/L
   6.0 mEq/L
   67 mg/dL
   109 mEq/L
   140 mEq/L
   42.3 %
   9.5 K/uL
        [image002.jpg]
                             [**2103-10-10**]  04:12 PM
                             [**2103-10-11**]  12:22 AM
                             [**2103-10-11**]  03:04 AM
                             [**2103-10-11**]  03:59 AM
                             [**2103-10-11**]  04:32 AM
   WBC
   14.3
   16.4
   9.5
   Hct
   41.1
   50.2
   42.3
   Plt
   129
   127
   133
   Cr
   2.1
   2.1
   TropT
   0.03
   TCO2
   15
   13
   Glucose
   146
   110
   101
   Other labs: PT / PTT / INR:22.4/53.4/2.1, CK / CKMB /
   Troponin-T:64//0.03, ALT / AST:809/733, Alk Phos / T Bili:176/2.9,
   Amylase / Lipase:190/19, Differential-Neuts:87.3 %, Lymph:9.8 %,
   Mono:2.9 %, Eos:0.0 %, Lactic Acid:8.0 mmol/L, LDH:1358 IU/L, Ca++:7.5
   mg/dL, Mg++:2.6 mg/dL, PO4:8.7 mg/dL
   Assessment and Plan
   70M with h/o COPD with recent hospitalization for COPD exacerbation on
   steroid taper, AAA s/p repair presenting with fall and hematemesis on
   aspirin found with transaminitis, RUQ tenderness, gallbladder swelling
   and leukocytosis
   .
   <I>PLAN:</I>
   .
   <I>## Hematemesis:</I>Per report pt had single episode of maroon
   hematemesis, unclear volume. Is guaiac negative so if GI source, has
   not been significant or of prolonged duration. Ddx is broad  GI vs oral
   vs pulmonary source. Pt has history of lung ca s/p resection, has
   history of acute cough/possible bronchitis.  He had GIB in [**Month (only) 2605**] at OSH,
   unclear etiology, per PCP was [**Name Initial (PRE) **] duodenal bleed.  Another more ominous
   possibility is an aorto-enteric fistula from his graft, however the
   patient has had no other symptoms such as chest pain and is currently
   hemodynamically stable.
   -GI aware, no plans for emergent/urgent scope.  NPO after MN for
   possibly EGD
   -2PIV
   -IV PPI, may switch back to home dose when taking PO
   -Active T+S
   -Check HCT in am, if stable may move to Q24.
   -switch asa to 81mg
   -decrease BB, hold other anti-hypertensives overnight, if HD stable,
   may restart in am.
   .
   <I>## RUQ pain:</I>Unclear picture with transaminitis without ductal
   dilatation and some gall bladder swelling. Pt is on steroids, reports
   vague history of poor appetite with 25lb wt loss over 3 months, at risk
   for acalculous cholecystitis.
   -HIDA scan
   -f/u blood cx
   .
   <I>## COPD:</I>Continue steroid taper, advair, duonebs
   .
   <I>## HTN:</I>Decreased dose of BB, holding other antihypertensives
   until am, may restart HCTZ or ACEI in am if stable, no further bleeding
   overnight.
   .
   <I>## HL:</I>Continue statin
   .
   <I>## Cardiomyopathy:</I>Restart ACEI in am
   .
   <I>## Leukocytosis:</I>Ddx includes steroid induced leukocytosis,
   recent URI, cholecystits.  UA bland, unlikely source.
   -Continue to trend
   -f/u blood cultures
   .
   <I>## Falls:</I>Head CT read pending. On prelim look no overt bleed. No
   focal neuron deficits.
   -f/u final read CT
   -Fall precautions
   -PT c/s
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2103-10-10**] 02:49 PM
   Multi Lumen - [**2103-10-11**] 02:27 AM
   Arterial Line - [**2103-10-11**] 02:56 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2103-10-11 08:36:00 Physician Attending Progress Note
Chief Complaint:
   HPI: 70 yr old man with severe COPD on (steroids high dose) and course
   of azithromycin,  HTN CHF (s/p chemo) lung Ca s/po resection abd aortic
   aneursym in [**10-21**] presents with chief compliant of hemetemesis. This
   AM at nursing home, s/p fall reaching from nightstand - + head trauma -
   shortly thereafter reports of vomiting blood.  Initial evaluation
   significant for lactate 2.8, abnormal gallbladder on US thickened wall
   with edema.  Overnight became cold, clammy, hypotensive with tachypnea
   and chest pain.  Negative cardiac enzymes.  Received femoral A-line,
   venous access, started dopamine peripheral changed to levophed with
   subsequent tachycardia.  Switched to dopamine and dobutamine.  He
   received 3L fluid.  Cards TTE preliminary global hypokinesis.  Gas
   7.12/42  lactate 7.7.  CT  abdomen with PO contrast edematous
   gallbladder no other significant findings.
   24 Hour Events:As above.
 EKG - At [**2103-10-11**] 12:30 AM
 CHEST PAIN - At [**2103-10-11**] 12:30 AM
 INVASIVE VENTILATION - START [**2103-10-11**] 02:23 AM
 MULTI LUMEN - START [**2103-10-11**] 02:27 AM
 ARTERIAL LINE - START [**2103-10-11**] 02:56 AM
   Allergies:
   Univasc (Oral) (Moexipril Hcl)
   Cough;
   Lipitor (Oral) (Atorvastatin Calcium)
   leg cramps;
   Vitamin E
   epistaxis;
   Ambien (Oral) (Zolpidem Tartrate)
   disorientatio
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 100 mcg/hour
   Dobutamine - 6 mcg/Kg/min
   Dopamine - 5 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2103-10-10**] 04:00 PM
   Morphine Sulfate - [**2103-10-11**] 12:31 AM
   Midazolam (Versed) - [**2103-10-11**] 04:39 AM
   Dextrose 50% - [**2103-10-11**] 05:49 AM
   Other medications:
   Prednisone 20mg
   Metoprolol 12
   Neurontin
   Docusate
   Folic acid
   MVI
   SImvistatin
   Fluoxetine
   Protonix
   Asprin
   Hep 5K tid
   RISS
   Nystatin
   Fentanyl drip 100mcg
   Chlorhexadine
   Dobuatime drip and dopamine drip
   Flagyl 500mg q8
   Vancomycin 1gm q24
   Zosyn 2.25gm x1
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: unable to obtain
   Flowsheet Data as of  [**2103-10-11**] 08:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 73 (69 - 106) bpm
   BP: 103/54(72) {97/45(64) - 160/101(122)} mmHg
   RR: 16 (9 - 41) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                    130 mL
                                                                  3,205 mL
   PO:
                                                                     60 mL
             TF:
   IVF:
                                                                     70 mL
                                                                  3,155 mL
   Blood products:
   Total out:
                                                                    495 mL
                                                                     35 mL
   Urine:
                                                                    495 mL
                                                                     35 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -365 mL
                                                                  3,170 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 822 (627 - 822) mL
   PS : 10 cmH2O
   RR (Set): 20
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 16 cmH2O
   Plateau: 13 cmH2O
   SpO2: 98%
   ABG: 7.20/41/140/11/-11
   Ve: 12.4 L/min
   PaO2 / FiO2: 280
   Physical Examination
   Gen: Intubated, HEENT: intubated, Lungs: CTA anteriorly  CV: RRRs1s2 no
   m/r/g appreciated  Abd: +BS soft limited by sedation.  Ext: No c/c/e
   Skin: warm and dry and extremities warm
   Labs / Radiology Preliminary:  Vascular studies negative for occlusion,
   CT scan sig for gallbladder wall thickening and edema, Also noted
   infiltrate RLL not present on CT from [**9-5**] (official dicatation
   pending).  HIDA scan-Preliminary late filling of gallbladder consistent
   with chronic cholycystitis, no filling of duodenum.
   13.2 g/dL
   133 K/uL
   101 mg/dL
   2.1 mg/dL
   11 mEq/L
   4.4 mEq/L
   67 mg/dL
   109 mEq/L
   140 mEq/L
   42.3 %
   9.5 K/uL
        [image002.jpg]
                             [**2103-10-10**]  04:12 PM
                             [**2103-10-11**]  12:22 AM
                             [**2103-10-11**]  03:04 AM
                             [**2103-10-11**]  03:59 AM
                             [**2103-10-11**]  04:32 AM
                             [**2103-10-11**]  06:14 AM
                             [**2103-10-11**]  08:21 AM
   WBC
   14.3
   16.4
   9.5
   Hct
   41.1
   50.2
   42.3
   Plt
   129
   127
   133
   Cr
   2.1
   2.1
   TropT
   0.03
   0.03
   TCO2
   15
   13
   13
   17
   Glucose
   146
   110
   101
   Other labs: PT / PTT / INR:22.4/53.4/2.1, CK / CKMB /
   Troponin-T:64//0.03, ALT / AST:809/733, Alk Phos / T Bili:176/2.9,
   Amylase / Lipase:190/19, Differential-Neuts:87.3 %, Lymph:9.8 %,
   Mono:2.9 %, Eos:0.0 %, Lactic Acid:7.0 mmol/L, LDH:1358 IU/L, Ca++:7.5
   mg/dL, Mg++:2.6 mg/dL, PO4:8.7 mg/dL
   Assessment and Plan:  70 yr old man with severe COPD on (steroids high
   dose) HTN CHF (s/p chemo) lung Ca s/po resection abd aortic aneursym in
   [**10-21**] presents with chief compliant of hemetemesis.  Developed acute
   [**Month (only) 1054**] overnight.
   1.  [**Name (NI) **] unclear etiology-vascular etiology excluded, No signs of
   bowel ischemia, suspect acute decompensation related to lactic acidosis
   and global cardiac depression.  Etiology of decompensation unclear at
   this time differential includes: Gallbadder/chronic cholycystits with
   development of necrotic cholycystitis and subsequent ascending
   cholangitis.  Elderly patient with prolonged high dose steroids, recent
   chronic elevated lfts, weight loss and decreased appetite
Patient
   reported just [**Male First Name (un) **]
t feel like eating
.  Could support chronic
   cholycystitis.  C.Diff colitis with sepsis given diarrhea.  However, no
   findings of bowel edema or colitis on CT scan. -Continue bicarb drip,
   dobuatime for lactate and dopamine would consider changing to neo.
   hydrocortisone 50mg q6 for stress dose-Will re-site line.  Will
   continue broad spectrum antibiotics pending cx data:  Vanc/Zosyn/flagyl
   and PO vanc.
   2. CV: global hypokinesis suspected secondary to sepsis/acidosis.  Will
   repeat TTE when academia resolved.
   3. Respiratory-will increase sedation, and increase ventilation to get
   PCO2 down to 30.
   4.  COPD: stable, concern for infiltrate/atelectasis RLL official CT
   results pending..
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines: Will resite A-Line and new right IJ.
   18 Gauge - [**2103-10-10**] 02:49 PM
   Multi Lumen - [**2103-10-11**] 02:27 AM
   Arterial Line - [**2103-10-11**] 02:56 AM
   Prophylaxis:
   DVT: SQ hep
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2103-10-11 09:13:00 Physician Attending Progress Note
Chief Complaint: GI bleed
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2103-10-11**] 12:30 AM
 CHEST PAIN - At [**2103-10-11**] 12:30 AM
 INVASIVE VENTILATION - START [**2103-10-11**] 02:23 AM
 MULTI LUMEN - START [**2103-10-11**] 02:27 AM
 ARTERIAL LINE - START [**2103-10-11**] 02:56 AM
   Last evening about midnight had sudden onset of shock, cold, stats fem
   art and venous lines.
   Stat Echo with global HK - required Dobutamine and Dopamine to maintain
   MAP 65
   Allergies:
   Univasc (Oral) (Moexipril Hcl)
   Cough;
   Lipitor (Oral) (Atorvastatin Calcium)
   leg cramps;
   Vitamin E
   epistaxis;
   Ambien (Oral) (Zolpidem Tartrate)
   disorientatio
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 100 mcg/hour
   Dobutamine - 6 mcg/Kg/min
   Dopamine - 5 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2103-10-10**] 04:00 PM
   Morphine Sulfate - [**2103-10-11**] 12:31 AM
   Midazolam (Versed) - [**2103-10-11**] 04:39 AM
   Dextrose 50% - [**2103-10-11**] 05:49 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: Tachycardia
   Flowsheet Data as of  [**2103-10-11**] 09:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 73 (69 - 106) bpm
   BP: 103/54(72) {97/45(64) - 160/101(122)} mmHg
   RR: 16 (9 - 41) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                    130 mL
                                                                  3,263 mL
   PO:
                                                                     60 mL
             TF:
   IVF:
                                                                     70 mL
                                                                  3,213 mL
   Blood products:
   Total out:
                                                                    495 mL
                                                                     35 mL
   Urine:
                                                                    495 mL
                                                                     35 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -365 mL
                                                                  3,228 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 822 (627 - 822) mL
   PS : 10 cmH2O
   RR (Set): 20
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 16 cmH2O
   Plateau: 13 cmH2O
   SpO2: 98%
   ABG: 7.20/41/140/11/-11
   Ve: 12.4 L/min
   PaO2 / FiO2: 280
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Distended decreased but present bowel sounds
   Extremities: min edema
   Skin:  slight mottling
   Neurologic: sedated
   Labs / Radiology
   13.2 g/dL
   133 K/uL
   101 mg/dL
   2.1 mg/dL
   11 mEq/L
   4.4 mEq/L
   67 mg/dL
   109 mEq/L
   140 mEq/L
   42.3 %
   9.5 K/uL
        [image002.jpg]
                             [**2103-10-10**]  04:12 PM
                             [**2103-10-11**]  12:22 AM
                             [**2103-10-11**]  03:04 AM
                             [**2103-10-11**]  03:59 AM
                             [**2103-10-11**]  04:32 AM
                             [**2103-10-11**]  06:14 AM
                             [**2103-10-11**]  08:21 AM
   WBC
   14.3
   16.4
   9.5
   Hct
   41.1
   50.2
   42.3
   Plt
   129
   127
   133
   Cr
   2.1
   2.1
   TropT
   0.03
   0.03
   TCO2
   15
   13
   13
   17
   Glucose
   146
   110
   101
   Other labs: PT / PTT / INR:22.4/53.4/2.1, CK / CKMB /
   Troponin-T:64//0.03, ALT / AST:809/733, Alk Phos / T Bili:176/2.9,
   Amylase / Lipase:190/19, Differential-Neuts:87.3 %, Lymph:9.8 %,
   Mono:2.9 %, Eos:0.0 %, Lactic Acid:7.0 mmol/L, LDH:1358 IU/L, Ca++:7.5
   mg/dL, Mg++:2.6 mg/dL, PO4:8.7 mg/dL
   Assessment and Plan
   Complicated yr old gentleman presents with fall and possible UGIB, abd
   US showed GB wall edema
   1.       Shock: likely mixed septic and cardiogenic. Doing well on
   combo dobutamine/dopa. Resite CVL to get CVP and follow SCvo2, lactate.
   Sepsis: Concerning etiology would be bowel ischemia with profound
   lactate and complex vascular anatomy. Dr [**Last Name (STitle) 4822**] consulting- stat ABD US
   with dopplers to see if grafts are open, if cannot assess will need abd
   CT with contrast to clarify.
           Gen [**Doctor First Name **] consult in light of abnl gall bladder and now shock-
   could this be nectrotic gallbladder
 get HIDA. Discuss with
            GI team as well role of GB decompression versus ERCP or PTC
   drain in even t of ascecing cholangitis.
           Cardiogenic Shock: etiologies would be massive MI but no acute
   ST T changes on EC (but is LBBB) and nothing focal by
            Echo
 though was more acidotic). PE would be another
   possibility with new RV dysfunction
 presently anuric and CTA
            would be dangerous. Unfortunately in light of GIB empiric
   anticoag would entail significant risk but we may be forced to
           commit and manage expectantly.
   2.            Resp Failure: currently on CPAP 10/5 because was
   dysnchronous in light of met acidodid and dirve to breathe. Attempt
   sedation and conversion back to AC with a move towards ARDSNET vent.
   3.           ARF: likely acute on chronic due to shock ATN, trying to
   now maintain MAPS greater than 65, goal UOP > 30 cc/hr ,   check urine
   lytes, renally does all meds
   Brother [**Name (NI) 4802**] [**Name (NI) 4803**], updated on plan, lives out of town
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   18 Gauge - [**2103-10-10**] 02:49 PM
   Multi Lumen - [**2103-10-11**] 02:27 AM
   Arterial Line - [**2103-10-11**] 02:56 AM
   Prophylaxis:
   DVT: SC hep
   Stress ulcer: PPI
   Communication:  with family
   Code status: Full code
   Disposition :ICU
   Total time spent: 100 minutes
   Patient is critically ill

2103-10-12 07:46:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND Abd - At [**2103-10-11**] 09:00 AM
patient
s vascular grafts
   appeared patent
 NUCLEAR MEDICINE - At [**2103-10-11**] 10:00 AM
HIDA showed lack of flow
   into the duodendum, which was thought to be due to the fentanyl pt is
   on.  It also showed delayed filling of the GB, likely from chronic
   cholecystitis
 MULTI LUMEN - START [**2103-10-11**] 05:23 PM
RIJ placed
 TRANS ESOPHAGEAL ECHO - At [**2103-10-11**] 06:00 PM-->did not show aortic
   dissection
 MULTI LUMEN - STOP [**2103-10-11**] 10:45 PM
Femoral line removed
   - Dopamine weaned off, still on dobutamine
   - Heparin started for possible PE vs MI; however, pt having some
   hemoptysis this AM (non-massive).
   Allergies:
   Univasc (Oral) (Moexipril Hcl)
   Cough;
   Lipitor (Oral) (Atorvastatin Calcium)
   leg cramps;
   Vitamin E
   epistaxis;
   Ambien (Oral) (Zolpidem Tartrate)
   disorientatio
   Last dose of Antibiotics:
   Vancomycin - [**2103-10-11**] 09:00 AM
   Metronidazole - [**2103-10-12**] 02:00 AM
   Piperacillin - [**2103-10-12**] 06:00 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Dobutamine - 6 mcg/Kg/min
   Dopamine - 2.6 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2103-10-11**] 06:00 PM
   Heparin Sodium (Prophylaxis) - [**2103-10-11**] 08:40 PM
   Heparin Sodium - [**2103-10-12**] 01:20 AM
   Pantoprazole (Protonix) - [**2103-10-12**] 04:09 AM
   Other medications:
   Flowsheet Data as of  [**2103-10-12**] 07:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 36.6
C (97.8
   HR: 74 (71 - 84) bpm
   BP: 121/60(81) {97/52(69) - 137/76(98)} mmHg
   RR: 15 (12 - 16) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
    CVP: 9 (8 - 18)mmHg
   Total In:
                                                                  6,799 mL
                                                                    682 mL
   PO:
   TF:
   IVF:
                                                                  5,649 mL
                                                                    652 mL
   Blood products:
   Total out:
                                                                    548 mL
                                                                    157 mL
   Urine:
                                                                     98 mL
                                                                    107 mL
   NG:
                                                                    450 mL
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                  6,251 mL
                                                                    525 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 779 (725 - 912) mL
   PS : 10 cmH2O
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 27
   PIP: 16 cmH2O
   SpO2: 97%
   ABG: 7.31/41/141/21/-5
   Ve: 13 L/min
   PaO2 / FiO2: 282
   Physical Examination
   General: Intubated, sedated, opens eyes to verbal stimuli
   HEENT: small tender pink swelling on occiput, ttp on right mastoid
   process. Thrush.  MMM.  conjunctiva not pale or injected. no scleral
   icterus. Intubated. OGT in place
   Neck: s/p radiation. No bruits.
   Pulmonary: Ronchorous breath sounds bilat
   Cardiac: RR, nl S1 S2, no murmurs, rubs or gallops appreciated. Distant
   Abdomen: s/p AAA repair scar. +BS. Soft.
   Extremities: No edema. cool. 1+ TP pulses.  Small ecchymosis with
   excoriation to right of coccyx. No midline tenderness.
   Skin: no rashes or lesions noted.
   Neurologic: Intubated, sedated. Pupils constrict equally.  + corneal
   reflex. Breathing on CPAP.
   Labs / Radiology
   51 K/uL
   12.0 g/dL
   105 mg/dL
   3.0 mg/dL
   21 mEq/L
   4.6 mEq/L
   84 mg/dL
   104 mEq/L
   138 mEq/L
   34.9 %
   15.6 K/uL
        [image002.jpg]
   Sputum 4+ GNRs, 1+GPR, & 1+ yeast
                             [**2103-10-11**]  06:14 AM
                             [**2103-10-11**]  08:21 AM
                             [**2103-10-11**]  12:01 PM
                             [**2103-10-11**]  12:27 PM
                             [**2103-10-11**]  04:36 PM
                             [**2103-10-11**]  05:15 PM
                             [**2103-10-11**]  09:12 PM
                             [**2103-10-11**]  11:37 PM
                             [**2103-10-12**]  03:53 AM
                             [**2103-10-12**]  07:23 AM
   WBC
   21.5
   17.6
   15.6
   Hct
   37.5
   35.5
   34.9
   Plt
   107
   65
   51
   Cr
   2.4
   2.5
   2.9
   3.0
   TropT
   19.60
   21.05
   17.52
   TCO2
   13
   17
   19
   21
   22
   Glucose
   186
   172
   117
   105
   Other labs: PT / PTT / INR:24.6/139.5/2.4, CK / CKMB /
   Troponin-T:892/93/17.52, ALT / AST:5250/5234, Alk Phos / T
   Bili:142/2.5, Amylase / Lipase:190/19, Differential-Neuts:96.7 %,
   Band:19.0 %, Lymph:1.4 %, Mono:1.9 %, Eos:0.0 %, D-dimer:6591 ng/mL,
   Fibrinogen:123 mg/dL, Lactic Acid:2.0 mmol/L, LDH:3020 IU/L, Ca++:7.7
   mg/dL, Mg++:2.1 mg/dL, PO4:5.8 mg/dL
   Assessment and Plan 70yo man w/ severe COPD, h/o lung ca, CHF, HTN, who
   presented w/ question of GI bleed was stable, then developed sudden
   shock.  Question of MI vs PE +/- sepsis.  Pt slightly improved,
   pressors being weaned.
   # Shock: likely mixed septic and cardiogenic picture. On dobutamine
   (off dopa).  Re: Cardiogenic Shock: etiologies suspect MI vs PE.  CE
   suggest infarction has occurred.  However,  nothing focal by Echo, just
   global depression of LV & RV function.  PE also quite possible as
   cause,  Unable to eval w/ CTA given renal failure & V/Q felt to be
   minimally usefully given pt
s lung disease (resection & severe COPD).
   TEE did not show aortic dissection.  Pt started on heparin (for MI &
   possible PE).  However, pt now w/ hemoptysis.
   Re: question of sepsis as contributor to pt
s shock: they primary
   culprits would likely be bowel vs biliary source vs PNA.  Bowel
   ischemia possible given pt
s profound lactate elevation
now impoved.
   However, ABD US with dopplers was unrevealing of compromised grafts.
   Also, possible biliary source given e/o chronic cholecystitis w/ ?
   acalculous cholecystitis.  Gen [**Doctor First Name 458**] & GI consulted
at present no
   intervention recommended.  Also, ? cdiff given recent hosp stay & loose
   stools.
   - con
t broad spectrum abx
   - dc hep gtt b/c of bleeding
   - repeat TTE to re-eval RV function
   - RUQ us to look at portal vein & GB re: progression of possible
   cholecystitis
   #Resp Failure: currently on CPAP 10/5 because was dysnchronous in light
   of met acidodid and dirve to breathe.
   - Increase pressure support as pt appears to be working to breath
   #  ARF: likely acute on chronic due to shock/ATN, trying to now
   maintain MAPS greater than 65.  UOP has dropped off.
   - [**Month (only) 60**] try bolus for UOP, though if minimal response would not push
   further fluid as pt may be in anuric/oliguric stage of ATN
   - renally does all meds
   <I>## Elevated LFTs:</I> Suspect shock liver
   -continue to trend.
   -f.u surgery recs
   -vanc/zosyn/flagyl as above
   # Coagulopathy: suspect [**3-17**] liver dysfunction plus pt now on hep gtt
   - hold anticoagulation given pt w/ hemoptytis
   <I>## COPD:</I>Continue steroids, advair, duonebs
   .
   <I>## HTN:</I>Hold all antihypertensives
   .
   <I>## HL:</I>Continue statin
   ICU Care
   Nutrition: hold on TF given ? bowel ischemia/biliary pathology; hold on
   TPN for now as well, re-eval tomorrow.
   Glycemic Control:
   Lines:
   Arterial Line - [**2103-10-11**] 02:56 AM
   Multi Lumen - [**2103-10-11**] 05:23 PM
   20 Gauge - [**2103-10-11**] 08:59 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2103-10-16 08:46:00 Physician Attending Progress Note
Chief Complaint:
   HPI: 70 yr old man with severe COPD on (steroids high dose) and course
   of azithromycin, HTN, CHF (cardiomyopathy s/p chemo) lung cancer s/p
   resection, AAA in [**10-21**] presented with hematemesis and fall with head
   trauma. In the ER, lactate 2.8, abnormal gallbladder on US thickened
   wall with edema. On HD #1 became cold, clammy, hypotensive with
   tachypnea and chest pain, eventually ruled in with positive cardiac
   enzymes. Received femoral A-line, venous access, started dopamine
   peripheral changed to levophed with subsequent tachycardia. Switched to
   dopamine and dobutamine. He received 3L fluid. TTE with global
   hypokinesis.  Gas 7.12/42, lactate 7.7. CT abdomen with PO contrast
   edematous gallbladder no other significant findings. TEE unremarkable
   for dissection, empirically started on heparin for concern of primary
   cardiac etiology vs PE. Morning of [**10-12**] developed bright red blood per
   ETT tube.   Currently off all pressors and now on HD.
   24 Hour Events: Current SBT 5/0, Sats dropped currently on 50% FI02.
   Weaned from all pressors after HD yesterday.  1unit PRBC yesterday
   Allergies:
   Univasc (Oral) (Moexipril Hcl)
   Cough;
   Lipitor (Oral) (Atorvastatin Calcium)
   leg cramps;
   Vitamin E
   epistaxis;
   Ambien (Oral) (Zolpidem Tartrate)
   disorientatio
   Last dose of Antibiotics:
   Metronidazole - [**2103-10-13**] 10:00 AM
   Piperacillin - [**2103-10-16**] 06:04 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2103-10-15**] 08:16 PM
   Other medications:
   Protonix
   Fluoxetine
   Simvastatin
   MVI
   Neurontin
   Nystatin
   RISS
   MDI (atrovent/alb Q4)
   Foslo
   Methyl prednisone 20mg tid
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2103-10-16**] 08:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.6
C (97.9
   HR: 91 (69 - 99) bpm
   BP: 143/91(100) {126/64(80) - 160/98(111)} mmHg
   RR: 16 (10 - 19) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
   CVP: 12 (4 - 19)mmHg
   Total In:
                                                                  2,066 mL
                                                                    311 mL
   PO:
   TF:
                                                                    413 mL
   IVF:
                                                                    638 mL
                                                                    231 mL
   Blood products:
                                                                    725 mL
   Total out:
                                                                  1,686 mL
                                                                     56 mL
   Urine:
                                                                    186 mL
                                                                     56 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    380 mL
                                                                    255 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 467 (341 - 922) mL
   PS : 5 cmH2O
   RR (Spontaneous): 16
   PEEP: 0 cmH2O
   FiO2: 50%
   RSBI: 35
   PIP: 6 cmH2O
   SpO2: 100%
   Ve: 9.3 L/min
   Physical ExaminationGeneral: Intubated, opening eyes to voice and
   following some commands (squeezing hands, wibbling toes.) HEENT: ETT in
   place, left neck hematoma stable. CV: S1S2 soft HS
s, no m/r/g
s. No
   heave.
   Lungs: CTA anteriorly w/o crackles / wheezing. Ab: Positive BS
   NT/ND, no masses.
   Ext: No c/c, peripheral edema in UE and LE. Neuro: Opens eyes to voice,
   following some commands.
   Labs / Radiology
   10.8 g/dL
   70 K/uL
   150 mg/dL
   5.3 mg/dL
   21 mEq/L
   4.4 mEq/L
   99 mg/dL
   105 mEq/L
   142 mEq/L
   31.2 %
   17.6 K/uL
        [image002.jpg]
                             [**2103-10-13**]  05:48 PM
                             [**2103-10-14**]  03:03 AM
                             [**2103-10-14**]  06:17 AM
                             [**2103-10-14**]  12:31 PM
                             [**2103-10-14**]  05:38 PM
                             [**2103-10-15**]  12:44 AM
                             [**2103-10-15**]  06:06 AM
                             [**2103-10-15**]  03:21 PM
                             [**2103-10-15**]  09:52 PM
                             [**2103-10-16**]  04:00 AM
   WBC
   19.0
   19.4
   18.0
   21.6
   17.6
   Hct
   38.2
   31.9
   33.2
   31.9
   33.6
   31.2
   Plt
   65
   51
   119
   87
   70
   Cr
   5.3
   5.7
   6.0
   4.8
   5.3
   TropT
   7.67
   7.26
   TCO2
   17
   19
   Glucose
   142
   170
   139
   132
   150
   Other labs: PT / PTT / INR:17.3/37.1/1.6, CK / CKMB /
   Troponin-T:68/26/7.26, ALT / AST:1103/113, Alk Phos / T Bili:95/2.4,
   Amylase / Lipase:190/19, Differential-Neuts:96.7 %, Band:19.0 %,
   Lymph:1.4 %, Mono:1.9 %, Eos:0.0 %, D-dimer:5634 ng/mL, Fibrinogen:233
   mg/dL, Lactic Acid:1.6 mmol/L, Albumin:3.4 g/dL, LDH:563 IU/L, Ca++:8.7
   mg/dL, Mg++:2.6 mg/dL, PO4:6.3 mg/dL
   Assessment and Plan   70 yr old man with severe COPD on (steroids high
   dose), HTN, diastolic CHF, lung cancer s/p resection, severe PVC with
   AAA with extensive AA graft who developed acute cardiogenic shock and
   hemoptysis; etiology unclear but most likely etiology is cardiogenic
   shock most likely [**3-17**] MI. Course has been complicated by acute
   respiratory failure and acute renal failure.
   1)       Shock: Initially unclear etiology
 PE vs primary cardiac
   process. No e/o DVT in LEs. No CTA (renal failure) No anticoagulation
   or aspirin [**3-17**] significant hemoptysis. Continue statin, consider
   increasing dose given transaminases improving. Suspect that his
   persistent current hypotension may be exacerbated by his significant
   volume overload and increased afterload
 will follow with HD / some
   volume removal. Hydrocort changed to Prednisone on [**10-15**], will change
   this to methylprednisone given critically ill status (and perhaps
   inefficient metabolism of prednisone to methylprednisone.)
   2)       Respiratory failure: Intubated initially for airway protection
   in the setting of altered mental status.  Passing SBT will extubate
   today pending VBG.  Will also check CTPA given dialysis as this will
   change overall management goal.  Anticoagulation vrs primary cardiac
   management. Continue to treat the GNRs in his sputum with Zosyn.
   3)       ID: Await speciation of GNRs in sputum. Off Vanc and Flagyl
   but would continue Zosyn. Follow cultures and clinical status.
   4)       Renal: Appreciate Renal assistance for oliguric ATN; now ~11
   liters up during this hospitalization. Undergoing dialysis today.
   Calcium acetate for elevated calcium / phos product.
   5)       Cardiac: Not cycling enzymes now that infarct appears to have
   completed. Will restart low dose beta-blocker as pressure allows.
   Continue statin, consider increasing dose but would request Cardiology
   to re-evaluate and comment on this. Off dobutamine. Will ask Cardiology
   regarding timing of next TTE to follow EF, global hypokinesis.
   6)       Heme: Positive DIC panel but improving. INR remains elevated
   but improving. Thrombocytopenia persists. No e/o active bleeding
   (minimal bloody secretions in the ETT suction.) Follow H/H, transfusion
   goal > 30% in setting of CAD / cardiogenic shock.
   7)       F/E/N: Had been tolerating TFs but high residuals today.
   Consider increasing bowel regimen to include Lactulose. Follow /
   replete
lytes in setting of renal failure. Continue Calcium Acetate.
   8)       Liver: Transaminases improving as his shock liver resolves.
   Monitor LFTs, bili, INR.  Will consider repeat RUQ ultrasound when more
   stable if any clinical change.
   9)       Endo: RSSI, follow sugars. Changed Hydrocortisone to
   Prednisone [**10-14**]; will change to methylpred above.
   10)   Code: full; Access: L IJ dialysis cath, R IJ triple lumen, hold
   on replacing A-line; Dispo: MICU.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2103-10-11**] 05:23 PM
   Dialysis Catheter - [**2103-10-14**] 06:59 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2103-10-17 09:24:00 Physician Attending Progress Note
Chief Complaint: hypotension
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   70 y/o M w/COPD, AAA, adm with GI bleed and developed respiratory
   arrest & cardiogenic shock.  Shock c/b ARF requiring dialysis.
   24 Hour Events:
   -CTA neg for PE
   -Cardiology consulted, recommended low dose aspirin and beta-blocker,
   statin
   -Desaturated to 80s overnight, started on hydral and nitro gtt for
   afterload reduction
   Allergies:
   Univasc (Oral) (Moexipril Hcl)
   Cough;
   Lipitor (Oral) (Atorvastatin Calcium)
   leg cramps;
   Vitamin E
   epistaxis;
   Ambien (Oral) (Zolpidem Tartrate)
   disorientatio
   Last dose of Antibiotics:
   Piperacillin - [**2103-10-16**] 11:55 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Nitroglycerin - 0.44 mcg/Kg/min
   Other ICU medications:
   Metoprolol - [**2103-10-17**] 01:34 AM
   Pantoprazole (Protonix) - [**2103-10-17**] 07:30 AM
   Other medications:
   prozac, mvt, folate, neurontin, nystatin, albuterol/atrovent, colace,
   phoslo, lactulose, simvastatin, aspirin, ceftriaxone, prednisone 20 mg
   daily, carvedilol 6.25 mg [**Hospital1 **]
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2103-10-17**] 09:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.7
   HR: 96 (77 - 111) bpm
   BP: 129/55(75) {117/45(63) - 166/92(109)} mmHg
   RR: 17 (12 - 23) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
   CVP: 11 (8 - 21)mmHg
   Total In:
                                                                  1,045 mL
                                                                    386 mL
   PO:
   TF:
                                                                    245 mL
   IVF:
                                                                    510 mL
                                                                    186 mL
   Blood products:
   Total out:
                                                                  1,593 mL
                                                                    598 mL
   Urine:
                                                                     93 mL
                                                                     33 mL
   NG:
                                                                     60 mL
   Stool:
                                                                      5 mL
   Drains:
   Balance:
                                                                   -548 mL
                                                                   -212 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 621 (553 - 847) mL
   PS : 5 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 83
   PIP: 11 cmH2O
   SpO2: 97%
   ABG: ///23/
   Ve: 11.3 L/min
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   No(t) Wheezes : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed,
   Sedated, Tone: Not assessed
   Labs / Radiology
   10.7 g/dL
   55 K/uL
   89 mg/dL
   4.6 mg/dL
   23 mEq/L
   4.3 mEq/L
   74 mg/dL
   107 mEq/L
   142 mEq/L
   31.6 %
   23.3 K/uL
        [image002.jpg]
                             [**2103-10-14**]  03:03 AM
                             [**2103-10-14**]  06:17 AM
                             [**2103-10-14**]  12:31 PM
                             [**2103-10-14**]  05:38 PM
                             [**2103-10-15**]  12:44 AM
                             [**2103-10-15**]  06:06 AM
                             [**2103-10-15**]  03:21 PM
                             [**2103-10-15**]  09:52 PM
                             [**2103-10-16**]  04:00 AM
                             [**2103-10-17**]  03:59 AM
   WBC
   19.0
   19.4
   18.0
   21.6
   17.6
   23.3
   Hct
   38.2
   31.9
   33.2
   31.9
   33.6
   31.2
   31.6
   Plt
   65
   51
   119
   87
   70
   55
   Cr
   5.3
   5.7
   6.0
   4.8
   5.3
   4.6
   TropT
   7.26
   TCO2
   17
   19
   Glucose
   142
   170
   139
   132
   150
   89
   Other labs: PT / PTT / INR:18.2/37.1/1.7, CK / CKMB /
   Troponin-T:68/26/7.26, ALT / AST:850/68, Alk Phos / T Bili:106/2.3,
   Amylase / Lipase:190/19, Differential-Neuts:96.7 %, Band:19.0 %,
   Lymph:1.4 %, Mono:1.9 %, Eos:0.0 %, D-dimer:5634 ng/mL, Fibrinogen:233
   mg/dL, Lactic Acid:1.6 mmol/L, Albumin:3.4 g/dL, LDH:535 IU/L, Ca++:8.9
   mg/dL, Mg++:2.3 mg/dL, PO4:4.5 mg/dL
   Imaging: CTA: prelim neg for PE, aortic graft without signs of leak,
   small pleural effusions & ascites, secretions in trachea and bilateral
   mainstem bronchi, consolidation RLL and worsened consolidation LLL
   Assessment and Plan
   70 y/o M w/COPD, HTN, CHF, AAA, adm with GI bleed and developed
   respiratory failure and cardiogenic shock.
   1. Respiratory failure:  Likely due to pneumonia superimposed on
   underlying COPD.  Currently tidal volumes are in the mid 100's but is
   still sedated on fentanyl.
   - wean fentanyl to off
   - once he's more awake and finished with dialysis run for today,
   perform SBT
   - ABG
   - Continue prednisone at current dose for now, inhalers
   2. ARF: Felt due to ATN, now on HD.
   3. Elevated transaminases:  Felt due to shock liver, now trending
   down.  Continue to follow, esp given initiation of statin.
   4. Coagulopathy:  Liver dysfxn +/- DIC.  Now improving.
   5. thrombocytopenia:  Also felt due to DIC.  Continue to follow.
   Holding SQ heparin.
   6. CHF:  Nitro gtt, hydral for afterload reduction.  On aspirin,
   statin, beta-blocker.  Holding ace given reported allergy.
   ICU Care
   Nutrition:
   Comments: holding TF for possible extubation
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2103-10-11**] 05:23 PM
   Dialysis Catheter - [**2103-10-14**] 06:59 PM
   18 Gauge - [**2103-10-16**] 10:08 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments: with brother.  [**Name (NI) **] discuss with family and
   outpt providers regarding whether pt would want to be reintubated if he
   fails trial of extubation.
   Code status: Full code
   Disposition :ICU
   Total time spent: 60 min
   Patient is critically ill

2103-10-18 06:50:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2103-10-18**] 06:02 AM
   right femoral ultrasound of lrg hematoma
   - Patient with new left groin hematoma at old site of left femoral line
   (removed at 2pm on [**2103-10-14**]). Hct decreased overnight from 31.6 -> 26.9.
   Patient ordered for right femoral ultrasound to evaluate
   -          Patient
s tube feeds stopped at midnight, had SBT this AM
   with RSBI of 26 (fentanyl still at 25mcg/hr)
   Allergies:
   Univasc (Oral) (Moexipril Hcl)
   Cough;
   Lipitor (Oral) (Atorvastatin Calcium)
   leg cramps;
   Vitamin E
   epistaxis;
   Ambien (Oral) (Zolpidem Tartrate)
   disorientatio
   Last dose of Antibiotics:
   Piperacillin - [**2103-10-16**] 11:55 AM
   Ceftriaxone 1 g q12 hours day 3
   Infusions:
   Fentanyl - 25 mcg/hour
   Nitroglycerin - 0.44 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2103-10-17**] 08:32 PM
   Other medications:
   Carvedilol 12.5 [**Hospital1 **]
   Hydralazine 10 mg IV q6hrs
   Prednisone 20 mg daily
   Simvastatin 40 mg daily
   Aspirin 81 daily
   Lactulose 30 mg PO TID
   Calcium Acetate 1334 mg PO TID with maeals
   Colace 100 mg PID
   Atrovent QID
   Calcium Gluconate sliding scale
   Chlorhexidine gluconate
   Nystatin 5 mL QID
   Gabapentin 200 mg PO qhs
   Folic Acid
   MVI
   Fluoxetine
   Pantoprazole 40 mg IV q 12 hours
   Advair [**Hospital1 **]
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2103-10-18**] 06:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 37.1
C (98.7
   HR: 81 (75 - 100) bpm
   BP: 115/58(73) {103/42(62) - 152/87(96)} mmHg
   RR: 13 (12 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
    CVP: 10 (2 - 14)mmHg
   Total In:
                                                                  1,075 mL
                                                                    235 mL
   PO:
   TF:
                                                                    228 mL
                                                                      3 mL
   IVF:
                                                                    447 mL
                                                                    113 mL
   Blood products:
   Total out:
                                                                  2,188 mL
                                                                     20 mL
   Urine:
                                                                     43 mL
                                                                     20 mL
   NG:
                                                                     60 mL
   Stool:
                                                                     85 mL
   Drains:
   Balance:
                                                                 -1,113 mL
                                                                    215 mL
   Respiratory support
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 519 (404 - 845) mL
   PS : 10 cmH2O
   RR (Set): 10
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 26
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: 7.39/40/130/25/0
   Ve: 8.6 L/min
   PaO2 / FiO2: 260
   Physical Examination
   Gen: sedated, does not respond to commands
   HEENT: sedated, intubated
   CV: RRR, no m/r/g
   Pulm: Clear anteriorly
   Abd: Soft, NT, ND, bowel sounds present,
   Ext: no edema, cool extremities, intact distal pulses, 6 in x 4 firm
   hematoma in left groin
   Labs / Radiology
   44 K/uL
   9.1 g/dL
   154 mg/dL
   4.1 mg/dL
   25 mEq/L
   4.0 mEq/L
   57 mg/dL
   108 mEq/L
   144 mEq/L
   26.9 %
   19.9 K/uL
        [image002.jpg]
                             [**2103-10-14**]  12:31 PM
                             [**2103-10-14**]  05:38 PM
                             [**2103-10-15**]  12:44 AM
                             [**2103-10-15**]  06:06 AM
                             [**2103-10-15**]  03:21 PM
                             [**2103-10-15**]  09:52 PM
                             [**2103-10-16**]  04:00 AM
                             [**2103-10-17**]  03:59 AM
                             [**2103-10-18**]  04:05 AM
                             [**2103-10-18**]  05:05 AM
   WBC
   19.4
   18.0
   21.6
   17.6
   23.3
   19.9
   Hct
   31.9
   33.2
   31.9
   33.6
   31.2
   31.6
   26.9
   Plt
   51
   119
   87
   70
   55
   44
   Cr
   5.7
   6.0
   4.8
   5.3
   4.6
   4.1
   TCO2
   19
   25
   Glucose
   170
   139
   132
   150
   89
   154
   Other labs: PT / PTT / INR:20.3/37.7/1.9, CK / CKMB /
   Troponin-T:68/26/7.26, ALT / AST:574/46, Alk Phos / T Bili:103/1.9,
   Amylase / Lipase:190/19, Differential-Neuts:96.7 %, Band:19.0 %,
   Lymph:1.4 %, Mono:1.9 %, Eos:0.0 %, D-dimer:5634 ng/mL, Fibrinogen:233
   mg/dL, Lactic Acid:1.6 mmol/L, Albumin:2.9 g/dL, LDH:446 IU/L, Ca++:8.8
   mg/dL, Mg++:2.2 mg/dL, PO4:4.7 mg/dL
   Sputum culture on [**10-18**]
 pending
   C. diff negative on [**10-17**].
   Assessment and Plan
   Mr. [**Known lastname 4803**] is a 70yo man w/ severe COPD, h/o lung ca, CHF, HTN admitted
   with GI bleed complicated by massive MI on [**10-10**], cardiogenic shock, and
   vent-associated pneumonia, on cefepime.
   1.       NSTEMI.  Patient was in cardiogenic shock secondary to massive
   MI on [**2103-10-10**].  Patient is not requiring pressors and in fact was
   requiring nitroglycerin for hypertension/afterload reduction until this
   morning.   EF 20% on recent echo.
   -          fluid removal with HD
   -          aspirin/ statin/ BB
   -          appreciate cards recs
   2.       Respiratory failure.  Patient has vent-associated pneumonia
   with elevated WBC and new infiltrate on CXR.  Will start cefepime to
   cover pseudomonas given new infiltrate while on ceftriaxone.  No
   evidence of gram positive infection so will hold off on vancomycin for
   now.  Respiratory failure also likely secondary to severe COPD (FEV1 of
   42%).   CTA negative for PE.  Initial intubation was actually for
   airway protection.  After family discussion, they would like patient to
   be do-not re-intubate, so will be cautious with plans for extubation.
   Patient tolerating SBT well, however given altered mental status and
   new infiltrate, will postpone extubation for now.
                     - lighten sedation
                     - continue PS at 5/5 for now
                             - Cefepime for vent-associated pneumonia
   (until culture data returns)
                             - f/u sputum cultures
                             - continue steroids for COPD at current dose
   3.       Groin hematoma.  Patient has new left groin hematoma in
   setting of thromobocytopenia, hepatic coagulopathy and uremia.  Will
   monitor site clinicially and follow Hct.
   -          follow [**Hospital1 **] Hct for now
   -          transfuse PRBCs given recent NSTEMI
   -          Vitamin K PO to reverse elevated INR if possible
   -          Plt transfusion for thromobotycopenia
   4.       Leukocytosis.   Patient found to have new infiltrate on CXR
   today suggesting vent associated PNA.  Patient has dirty UA, though is
   HD dependent so unclear significance.
   -          f/u c. difff, urine culture, sputum culture
   -          continue cefepime for VAP
   5.       ARF.  Patient has acute on chronic due to shock/ATN.  HD
   dependent. Unclear if pt would regain much renal function at this
   point.
   -          Appreciate renal involvement
   -          Continue HD
   -          follow electrolytes
   -          maintain MAP >65
   -          minimize IVF given
   -          renally dose meds
   6.       Elevated LFTs: Suspect shock liver.  Currently improving.
   Transaminases trending down.
   -          Continue to trend LFTs, bili.
   -          Will continue low dose statin for now
   7.       Coagulopathy: suspect second to DIC and hepatic dysfunction.
   -          ASA restarted [**10-16**]
   -          oral Vit K today
   8.       Thrombocytopenia.  Labs consistent with DIC, but will check
   HIT.
   -          transfer for platelets <50 or active bleeding
   -          transfuse platelets today
   9.       COPD: Continue steroids at present dose.  Will not taper at
   present given the new infiltrate.  Duonebs
   10.    HTN. Titrate BB as tolerate.
   11.    HL: Continue statin
   12.    Thrush: continue nystatin
   ICU Care
   Nutrition:
   Glycemic Control:  FS 90s-  150s on ISS
   Lines:
   Multi Lumen - [**2103-10-11**] 05:23 PM
   Dialysis Catheter - [**2103-10-14**] 06:59 PM
   18 Gauge - [**2103-10-16**] 10:08 AM
   Prophylaxis:
   DVT: compression stockings, INR 1.9
    Stress ulcer: IV PPI [**Hospital1 **]
   VAP:  Cefepime for treatment
   Comments:
   Communication:  Comments:  Brother
   [**Name (NI) 66**] status: DNR/ do not re-intubate
   Disposition: ICU Care for now

2103-10-18 10:08:00 Physician Attending Progress Note
Chief Complaint: respiratory failure, MI
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   70 y/o M adm with respiratory failure and cardiogenic shock
   24 Hour Events:
 ULTRASOUND - At [**2103-10-18**] 06:02 AM
   right femoral ultrasound of lrg hematoma.  Hct 31->26.
   -RSBI 26 this AM on SBT
   Allergies:
   Univasc (Oral) (Moexipril Hcl)
   Cough;
   Lipitor (Oral) (Atorvastatin Calcium)
   leg cramps;
   Vitamin E
   epistaxis;
   Ambien (Oral) (Zolpidem Tartrate)
   disorientatio
   Last dose of Antibiotics:
   Piperacillin - [**2103-10-16**] 11:55 AM
   Ceftriaxone - [**2103-10-18**] 08:00 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2103-10-18**] 08:00 AM
   Other medications:
   fluoxetine, mvt, folate, gabapentin, nystatin, insulin sliding scale,
   peridex, atrovent, colace, calcium acetate, lactulose, simvastatin,
   aspirin, prednisone 20 mg daily, carvedilol 12.5 mg [**Hospital1 **]
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2103-10-18**] 10:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.9
C (98.4
   HR: 74 (74 - 100) bpm
   BP: 95/51(63) {95/42(62) - 152/87(96)} mmHg
   RR: 16 (12 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
   CVP: 7 (2 - 12)mmHg
   Total In:
                                                                  1,075 mL
                                                                    372 mL
   PO:
   TF:
                                                                    228 mL
                                                                      3 mL
   IVF:
                                                                    447 mL
                                                                    219 mL
   Blood products:
   Total out:
                                                                  2,188 mL
                                                                     20 mL
   Urine:
                                                                     43 mL
                                                                     20 mL
   NG:
                                                                     60 mL
   Stool:
                                                                     85 mL
   Drains:
   Balance:
                                                                 -1,113 mL
                                                                    352 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 671 (404 - 845) mL
   PS : 5 cmH2O
   RR (Set): 10
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 26
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.39/40/130/25/0
   Ve: 7.2 L/min
   PaO2 / FiO2: 260
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: R base)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed, opens eyes to voice but not following commands
   Labs / Radiology
   9.1 g/dL
   44 K/uL
   154 mg/dL
   4.1 mg/dL
   25 mEq/L
   4.0 mEq/L
   57 mg/dL
   108 mEq/L
   144 mEq/L
   26.9 %
   19.9 K/uL
        [image002.jpg]
                             [**2103-10-14**]  12:31 PM
                             [**2103-10-14**]  05:38 PM
                             [**2103-10-15**]  12:44 AM
                             [**2103-10-15**]  06:06 AM
                             [**2103-10-15**]  03:21 PM
                             [**2103-10-15**]  09:52 PM
                             [**2103-10-16**]  04:00 AM
                             [**2103-10-17**]  03:59 AM
                             [**2103-10-18**]  04:05 AM
                             [**2103-10-18**]  05:05 AM
   WBC
   19.4
   18.0
   21.6
   17.6
   23.3
   19.9
   Hct
   31.9
   33.2
   31.9
   33.6
   31.2
   31.6
   26.9
   Plt
   51
   119
   87
   70
   55
   44
   Cr
   5.7
   6.0
   4.8
   5.3
   4.6
   4.1
   TCO2
   19
   25
   Glucose
   170
   139
   132
   150
   89
   154
   Other labs: PT / PTT / INR:20.3/37.7/1.9, CK / CKMB /
   Troponin-T:68/26/7.26, ALT / AST:574/46, Alk Phos / T Bili:103/1.9,
   Amylase / Lipase:190/19, Differential-Neuts:96.7 %, Band:19.0 %,
   Lymph:1.4 %, Mono:1.9 %, Eos:0.0 %, D-dimer:5634 ng/mL, Fibrinogen:233
   mg/dL, Lactic Acid:1.6 mmol/L, Albumin:2.9 g/dL, LDH:446 IU/L, Ca++:8.8
   mg/dL, Mg++:2.2 mg/dL, PO4:4.7 mg/dL
   Imaging: CXR today:  new RLL infiltrate since CXR since [**10-15**]
   Microbiology: sputum [**10-17**]: 2+ GNR, 2+ yeast
   UA [**10-17**]: trace leuk esterase, 28 WBC, 10 RBCs, few bacteria
   Assessment and Plan
   70 y/o M w/COPD, HTN, CHF, AAA, adm with GI bleed and developed
   respiratory failure and cardiogenic shock.
   1. Respiratory failure:  Likely due to pneumonia superimposed on
   underlying COPD.  Now with evidence of new infiltrate on CXR with good
   sputum sample showing GNRs.  However, RSBI looks good and getting good
   tidal volumes on [**6-18**].
   - d/c ceftriaxone and start cefepime for new VAP.  No GPCs on gram
   stain so will hold off on starting vancomycin.
   - wean fentanyl to off
   - once he's more awake and finished with dialysis run for today,
   perform SBT.
   Will rest overnight on [**11-18**] and consider extubation in AM if he
   continues current trend towards improvement
   - Continue prednisone at current dose for now, inhalers
   2. ARF: Felt due to ATN, now on HD.
   3. Elevated transaminases:  Felt due to shock liver, now trending
   down.  Continue to follow, esp given initiation of statin.
   4. Coagulopathy:  Liver dysfxn +/- DIC.  Now improving.
   5. thrombocytopenia:  Also felt due to DIC.  Continue to follow.
   Holding SQ heparin.
   6. CHF:  BP dropped a little with HD today so will decrease dose of
   carvedilol today.  On aspirin, statin.  Holding ace given reported
   allergy.
   7. L groin hematoma:  Likely due to femoral line (now out).  Repeat Hct
   pending but dropped 5 points overnight.  Will transfuse 1 unit PRBCs
   and platelets.  If continues to bleed would give ddavp.  Will follow
   groin exam.
   ICU Care
   Nutrition:
   Comments: holding tube feeds for possible extubation
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Multi Lumen - [**2103-10-11**] 05:23 PM
   Dialysis Catheter - [**2103-10-14**] 06:59 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 45 min
   Patient is critically ill

2103-10-19 06:58:00 Physician Resident Progress Note
Chief Complaint: NSTEMI, Vent Associated Pneumonia
   24 Hour Events:
   Dialyzed.
   Transfused 1 unit PRBCs, 1 unit platelets
   Give PO Vitamin K
   Cefepime started for VAP, Ceftriaxone discontinued.
   Carvedilol dose lowered and BP is currently stable.
 BLOOD CULTURED - At [**2103-10-18**] 05:28 PM
 BLOOD CULTURED - At [**2103-10-19**] 04:48 AM
   History obtained from [**Hospital 85**] Medical records
   Patient unable to provide history: Sedated, Unresponsive
   Allergies:
   Univasc (Oral) (Moexipril Hcl)
   Cough;
   Lipitor (Oral) (Atorvastatin Calcium)
   leg cramps;
   Vitamin E
   epistaxis;
   Ambien (Oral) (Zolpidem Tartrate)
   disorientatio
   Last dose of Antibiotics:
   Piperacillin - [**2103-10-16**] 11:55 AM
   Ceftriaxone - [**2103-10-18**] 08:00 AM
   Cefipime - [**2103-10-18**] 08:18 PM
   Infusions:
   Other ICU medications:
   Insulin - Regular - [**2103-10-18**] 08:00 AM
   Pantoprazole (Protonix) - [**2103-10-18**] 08:19 PM
   Other medications:
   Nephrocaps daily
   Vit K 5 mg daily
   Cefepime day 2
   Fentanyl bolus PRN
   Carvedilol 6.25 mg [**Hospital1 **]
   Hydralazine 10 mg q6 hour PRN
   Prednisone 20 mg daily
   Simvastatin 40 mg daily
   Aspirin 81 daily
   Lactulose 30 mg TID
   Calcium Acetate 1334 TID w/meals
   Colace [**Hospital1 **]
   Atrovent QID
   Albuterol q4 hour PRN
   Chlorhexidine
   ISS
   Nystatin QID
   Folic Acid
   Fluoxetine 20 mg daily
   Pantoprazole 40 IV BID
   Advair 250/50 inhaled [**Hospital1 **]
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2103-10-19**] 06:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.5
C (97.7
   HR: 80 (68 - 89) bpm
   BP: 102/46(60) {90/43(55) - 147/74(92)} mmHg
   RR: 17 (12 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
    CVP: 10 (5 - 13)mmHg
   Total In:
                                                                  1,679 mL
                                                                    371 mL
   PO:
   TF:
                                                                    312 mL
                                                                    242 mL
   IVF:
                                                                    477 mL
                                                                     69 mL
   Blood products:
                                                                    570 mL
   Total out:
                                                                     32 mL
                                                                    420 mL
   Urine:
                                                                     32 mL
                                                                     20 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,647 mL
                                                                    -49 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 469 (466 - 962) mL
   PS : 10 cmH2O
   RR (Set): 8
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 34
   PIP: 16 cmH2O
   Plateau: 16 cmH2O
   SpO2: 100%
   ABG: ///26/
   Ve: 13.9 L/min
   Physical Examination
   Gen: chronically ill appearing, temporal wasting
   Neck: left HD line
   CV:RRR no m/r/g
   Pulm: clear anteriorly, comfortable respirations
   Abd: Soft, NT, ND, bowel sounds present
   Ext: no peripheral edema
   Neuro: squeezes hands on command, opens eyes
   Labs / Radiology
   74 K/uL
   10.0 g/dL
   130 mg/dL
   4.2 mg/dL
   26 mEq/L
   4.2 mEq/L
   65 mg/dL
   108 mEq/L
   220
   30.4 %
   21.9 K/uL
        [image002.jpg]
                             [**2103-10-15**]  06:06 AM
                             [**2103-10-15**]  03:21 PM
                             [**2103-10-15**]  09:52 PM
                             [**2103-10-16**]  04:00 AM
                             [**2103-10-17**]  03:59 AM
                             [**2103-10-18**]  04:05 AM
                             [**2103-10-18**]  05:05 AM
                             [**2103-10-18**]  08:07 AM
                             [**2103-10-18**]  05:01 PM
                             [**2103-10-19**]  03:56 AM
   WBC
   18.0
   21.6
   17.6
   23.3
   19.9
   18.6
   22.9
   21.9
   Hct
   33.2
   31.9
   33.6
   31.2
   31.6
   26.9
   25.3
   29.5
   30.4
   Plt
   119
   87
   70
   55
   44
   38
   84
   74
   Cr
   6.0
   4.8
   5.3
   4.6
   4.1
   4.2
   TCO2
   25
   Glucose
   139
   132
   150
   89
   154
   130
   Other labs: PT / PTT / INR:16.8/38.3/1.5, CK / CKMB /
   Troponin-T:68/26/7.26, ALT / AST:402/32, Alk Phos / T Bili:103/1.8,
   Amylase / Lipase:190/19, Differential-Neuts:98.0 %, Band:0.0 %,
   Lymph:1.0 %, Mono:1.0 %, Eos:0.0 %, D-dimer:5634 ng/mL, Fibrinogen:233
   mg/dL, Lactic Acid:1.6 mmol/L, Albumin:2.9 g/dL, LDH:446 IU/L, Ca++:9.4
   mg/dL, Mg++:2.2 mg/dL, PO4:4.3 mg/dL
   CXR
 unchanged RLL infiltrate
   [**10-19**]
 blood cultures x 2
 NGTD
   [**10-19**]
 urine culture
 1000 yeast
   [**10-17**].  Sputum.
GRAM STAIN (Final [**2103-10-18**]):
      >25 PMNs and <10 epithelial cells/100X field.
      2+   (1-5 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
      2+   (1-5 per 1000X FIELD):   BUDDING YEAST.
   Assessment and Plan
   Mr. [**Known lastname 4803**] is a 70yo man w/ severe COPD, h/o lung ca, CHF, HTN admitted
   with GI bleed complicated by massive MI on [**10-10**], cardiogenic shock, and
   vent-associated pneumonia, on cefepime day 2.
   1.       NSTEMI.  Patient was in cardiogenic shock secondary to massive
   MI on [**2103-10-10**].  Patient is not requiring pressors.  EF 20% on recent
   echo.  Stable fluid status. BP also stable today after reduction of
   carvedilol.
   -          aspirin/ statin/ BB (carvedilol)
   -          appreciate cards recs
   2.       Respiratory failure.  Patient has vent-associated pneumonia
   with elevated WBC and new infiltrate on CXR on [**10-18**].  Now on day 2 of
   cefepime while awaiting sputum cultures and sensitivies though has been
   afebrile and WBC is stable.  Previous sputum was enterobacter
   sensistive to ceftriaxone.   No evidence of gram positive infection so
   will hold off on vancomycin for now.  Respiratory failure also likely
   secondary to severe COPD (FEV1 of 42%).   CTA negative for PE.  After
   family discussion, they would like patient to be do-not re-intubate.
   Patient has improved mental status and is tolerating SBT well, so is
   optimized for extubation and this is consistent with patient
s goals of
   care, so will give trial of extubation today with no plans to
   re-intubated.
                     - extubate today
                             - Cefepime for vent-associated pneumonia
   (until culture data returns)
                             - f/u sputum cultures
                             - continue steroids for COPD at current dose;
   will consider tapering tomorrow if tolerating extubation
   3.       Groin hematoma.  Patient noted to have left groin hematoma  on
   [**10-18**] in setting of thromobocytopenia, hepatic coagulopathy and uremia.
   Patient received platelets, PRBCs, and Vit K yesterday.  Hct responded
   to blood transfusion and currently stable.
   -          Daily crits
   -          Monitor hematoma clinically
   4.       Leukocytosis.   Patient found to have new infiltrate on CXR on
   [**10-18**]  suggesting vent associated PNA.  Patient is C. diff negative and
   UCx showed yeast.  Blood cultures are negative to date.
   -          continue cefepime for VAP
          -         f/u blood, sputum cultures
   5.       ARF.  Patient has acute on chronic due to shock/ATN.  HD
   dependent. Unclear if pt would regain much renal function at this
   point.
   -          Appreciate renal involvement
   -          Continue HD
   -          follow electrolytes
   -          maintain MAP >65
   -          minimize IVF given
   -          renally dose meds
   -          nephrocaps
   6.       Elevated LFTs: Suspect shock liver.  Currently improving.
   Transaminases continue to improve.
   -          Will continue low dose statin for now
   7.       Coagulopathy: suspect second to DIC and hepatic dysfunction.
   INR improved with Vitamin K.
   -          ASA restarted [**10-16**]
   -          oral Vit K
   8.       Thrombocytopenia.  Labs consistent with DIC, but will check
   HIT.
   -          transfer for platelets <50 or active bleeding
   -          f/u HIT
   9.       COPD: Continue steroids at present dose.  Will not taper at
   present given plans for extubation today.  Duonebs
   10.    HTN. Titrate carvedilol as tolerate.
   11.    HL: Continue statin
   12.    Thrush: continue nystatin
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2103-10-18**] 11:43 PM 35 mL/hour
   Glycemic Control:  FS 100s to 210s on ISS
   Lines:
   Multi Lumen - [**2103-10-11**] 05:23 PM
   Dialysis Catheter - [**2103-10-14**] 06:59 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:  son
   [**Name (NI) 66**] status: DNR / DNI
   Disposition:ICU care

2103-10-19 10:44:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   70 y/o M w/COPD, HTN, CHF, AAA, adm with GI bleed and developed
   respiratory failure and cardiogenic shock
   24 Hour Events:
 BLOOD CULTURED - At [**2103-10-18**] 05:28 PM
 BLOOD CULTURED - At [**2103-10-19**] 04:48 AM
   HD  yesterday.
   Transfused 1 unit blood and platelets.
   Started cefepime for VAP.
   Fentanyl has been off since yesterday, has gotten bolused a couple of
   times.
   Allergies:
   Univasc (Oral) (Moexipril Hcl)
   Cough;
   Lipitor (Oral) (Atorvastatin Calcium)
   leg cramps;
   Vitamin E
   epistaxis;
   Ambien (Oral) (Zolpidem Tartrate)
   disorientatio
   Last dose of Antibiotics:
   Piperacillin - [**2103-10-16**] 11:55 AM
   Ceftriaxone - [**2103-10-18**] 08:00 AM
   Cefipime - [**2103-10-18**] 08:18 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2103-10-18**] 08:19 PM
   Other medications:
   advair 250/50 [**Hospital1 **], prozac, folate, neurontin, nystatin, insulin sliding
   scale, peridex, atrovent, colace, calcium acetate, lactulose, aspirin
   81 mg daily, simvastatin 40 mg daily, prednisone 20 mg daily,
   nephrocaps, carvedilol 6.25 mg [**Hospital1 **], vitamin K, fentanyl 100 mcg since
   midnight
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2103-10-19**] 10:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.2
C (97.1
   HR: 66 (66 - 89) bpm
   BP: 85/38(48) {85/38(48) - 147/74(92)} mmHg
   RR: 16 (12 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
   CVP: 9 (5 - 13)mmHg
   Total In:
                                                                  1,679 mL
                                                                    588 mL
   PO:
   TF:
                                                                    312 mL
                                                                    364 mL
   IVF:
                                                                    477 mL
                                                                    104 mL
   Blood products:
                                                                    570 mL
   Total out:
                                                                     32 mL
                                                                    420 mL
   Urine:
                                                                     32 mL
                                                                     20 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,647 mL
                                                                    169 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 471 (466 - 962) mL
   PS : 10 cmH2O
   RR (Set): 8
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 34
   PIP: 16 cmH2O
   Plateau: 16 cmH2O
   SpO2: 100%
   ABG: ///26/
   Ve: 11.6 L/min
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   inspiratory)
   Abdominal: Soft, Bowel sounds present
   Extremities: Right: 1+, Left: 1+, L groin hematoma stable.
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   10.0 g/dL
   74 K/uL
   130 mg/dL
   4.2 mg/dL
   26 mEq/L
   4.2 mEq/L
   65 mg/dL
   108 mEq/L
   144
   30.4 %
   21.9 K/uL
        [image002.jpg]
                             [**2103-10-15**]  06:06 AM
                             [**2103-10-15**]  03:21 PM
                             [**2103-10-15**]  09:52 PM
                             [**2103-10-16**]  04:00 AM
                             [**2103-10-17**]  03:59 AM
                             [**2103-10-18**]  04:05 AM
                             [**2103-10-18**]  05:05 AM
                             [**2103-10-18**]  08:07 AM
                             [**2103-10-18**]  05:01 PM
                             [**2103-10-19**]  03:56 AM
   WBC
   18.0
   21.6
   17.6
   23.3
   19.9
   18.6
   22.9
   21.9
   Hct
   33.2
   31.9
   33.6
   31.2
   31.6
   26.9
   25.3
   29.5
   30.4
   Plt
   119
   87
   70
   55
   44
   38
   84
   74
   Cr
   6.0
   4.8
   5.3
   4.6
   4.1
   4.2
   TCO2
   25
   Glucose
   139
   132
   150
   89
   154
   130
   Other labs: PT / PTT / INR:16.8/38.3/1.5, CK / CKMB /
   Troponin-T:68/26/7.26, ALT / AST:402/32, Alk Phos / T Bili:103/1.8,
   Amylase / Lipase:190/19, Differential-Neuts:98.0 %, Band:0.0 %,
   Lymph:1.0 %, Mono:1.0 %, Eos:0.0 %, D-dimer:5634 ng/mL, Fibrinogen:233
   mg/dL, Lactic Acid:1.6 mmol/L, Albumin:2.9 g/dL, LDH:446 IU/L, Ca++:9.4
   mg/dL, Mg++:2.2 mg/dL, PO4:4.3 mg/dL
   Imaging: CXR: RLL infiltrate slightly improved
   Microbiology: sputum w/2+ GNR, cx pending
   Assessment and Plan
   70 y/o M w/COPD, HTN, CHF, AAA, adm with GI bleed and developed
   respiratory failure and cardiogenic shock.
   1. Respiratory failure:  Likely due to pneumonia superimposed on
   underlying COPD.  Now with evidence of new infiltrate on CXR with good
   sputum sample showing GNRs.  However, RSBI looks good and getting good
   tidal volumes on [**6-18**].
   - d/c'ed ceftriaxone and start cefepime for new VAP.  No GPCs on gram
   stain so will hold off on starting vancomycin.
   - wean fentanyl to off
   - SBT ->extubate
   - Continue prednisone at current dose for now, inhalers
   2. ARF: Felt due to ATN, now on HD.
   3. Elevated transaminases:  Felt due to shock liver, now trending
   down.  No need to continue following.
   4. Coagulopathy:  Liver dysfxn +/- DIC.  Now improving.
   - vitamin K x3 days
   5. thrombocytopenia:  Also felt due to DIC.  Continue to follow.
   Holding SQ heparin.  PF4 pending.
   6. CHF:  BP stable on decreased dose of carvedilol.  On aspirin,
   statin.  Holding ace given reported allergy.
   7. L groin hematoma:  Likely due to femoral line (now out).  Hct stable
   s/p transfusion.  Exam unchanged.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2103-10-18**] 11:43 PM 35 mL/hour
   Comments: hold tube feeds for potential extubation
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   Multi Lumen - [**2103-10-11**] 05:23 PM
   Dialysis Catheter - [**2103-10-14**] 06:59 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 45 min
   Patient is critically ill

2103-10-20 06:54:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Patient extubated.  Brother and patient in agreement not to
   re-intubate.  Patient weaned to 6L nasal canulla, but has difficulty
   clearing secretions so requires intermittent suctioning
   - dialysied 1 kg yesterday
   Allergies:
   Univasc (Oral) (Moexipril Hcl)
   Cough;
   Lipitor (Oral) (Atorvastatin Calcium)
   leg cramps;
   Vitamin E
   epistaxis;
   Ambien (Oral) (Zolpidem Tartrate)
   disorientatio
   Last dose of Antibiotics:
   Ceftriaxone - [**2103-10-18**] 08:00 AM
   Cefipime - [**2103-10-19**] 08:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2103-10-19**] 08:00 PM
   Fentanyl - [**2103-10-20**] 05:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2103-10-20**] 06:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.2
C (97.1
   HR: 78 (66 - 90) bpm
   BP: 150/69(88) {85/38(48) - 159/79(98)} mmHg
   RR: 19 (14 - 25) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
    CVP: 15 (9 - 15)mmHg
   Total In:
                                                                    848 mL
                                                                     69 mL
   PO:
   TF:
                                                                    378 mL
   IVF:
                                                                    350 mL
                                                                     69 mL
   Blood products:
   Total out:
                                                                    440 mL
                                                                     20 mL
   Urine:
                                                                     40 mL
                                                                     20 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    408 mL
                                                                     49 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 557 (471 - 557) mL
   PS : 5 cmH2O
   RR (Set): 8
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 100%
   PIP: 11 cmH2O
   SpO2: 98%
   ABG: ///24/
   Ve: 9.8 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   73 K/uL
   10.7 g/dL
   99 mg/dL
   4.2 mg/dL
   24 mEq/L
   4.9 mEq/L
   64 mg/dL
   108 mEq/L
   144 mEq/L
   32.0 %
   23.2 K/uL
        [image002.jpg]
                             [**2103-10-15**]  03:21 PM
                             [**2103-10-15**]  09:52 PM
                             [**2103-10-16**]  04:00 AM
                             [**2103-10-17**]  03:59 AM
                             [**2103-10-18**]  04:05 AM
                             [**2103-10-18**]  05:05 AM
                             [**2103-10-18**]  08:07 AM
                             [**2103-10-18**]  05:01 PM
                             [**2103-10-19**]  03:56 AM
                             [**2103-10-20**]  02:44 AM
   WBC
   21.6
   17.6
   23.3
   19.9
   18.6
   22.9
   21.9
   23.2
   Hct
   31.9
   33.6
   31.2
   31.6
   26.9
   25.3
   29.5
   30.4
   32.0
   Plt
   87
   70
   55
   44
   38
   84
   74
   73
   Cr
   4.8
   5.3
   4.6
   4.1
   4.2
   4.2
   TCO2
   25
   Glucose
   132
   150
   89
   154
   130
   99
   Other labs: PT / PTT / INR:16.8/38.3/1.5, CK / CKMB /
   Troponin-T:68/26/7.26, ALT / AST:402/32, Alk Phos / T Bili:103/1.8,
   Amylase / Lipase:190/19, Differential-Neuts:98.0 %, Band:0.0 %,
   Lymph:1.0 %, Mono:1.0 %, Eos:0.0 %, D-dimer:5634 ng/mL, Fibrinogen:233
   mg/dL, Lactic Acid:1.6 mmol/L, Albumin:2.9 g/dL, LDH:446 IU/L, Ca++:9.4
   mg/dL, Mg++:2.2 mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 4803**] is a 70yo man w/ severe COPD, h/o lung ca, CHF, HTN admitted
   with GI bleed complicated by massive MI on [**10-10**], cardiogenic shock, and
   vent-associated pneumonia, on cefepime day 2.
   1.       NSTEMI.  Patient was in cardiogenic shock secondary to massive
   MI on [**2103-10-10**].  Patient is not requiring pressors.  EF 20% on recent
   echo.  Stable fluid status. BP also stable today after reduction of
   carvedilol.
   -          aspirin/ statin/ BB (carvedilol)
   -          appreciate cards recs
   2.       Respiratory failure.  Patient has vent-associated pneumonia
   with elevated WBC and new infiltrate on CXR on [**10-18**].  Now on day 2 of
   cefepime while awaiting sputum cultures and sensitivies though has been
   afebrile and WBC is stable.  Previous sputum was enterobacter
   sensistive to ceftriaxone.   No evidence of gram positive infection so
   will hold off on vancomycin for now.  Respiratory failure also likely
   secondary to severe COPD (FEV1 of 42%).   CTA negative for PE.  After
   family discussion, they would like patient to be do-not re-intubate.
   Patient has improved mental status and is tolerating SBT well, so is
   optimized for extubation and this is consistent with patient
s goals of
   care, so will give trial of extubation today with no plans to
   re-intubated.
                     - extubate today
                             - Cefepime for vent-associated pneumonia
   (until culture data returns)
                             - f/u sputum cultures
                             - continue steroids for COPD at current dose;
   will consider tapering tomorrow if tolerating extubation
   3.       Groin hematoma.  Patient noted to have left groin hematoma  on
   [**10-18**] in setting of thromobocytopenia, hepatic coagulopathy and uremia.
   Patient received platelets, PRBCs, and Vit K yesterday.  Hct responded
   to blood transfusion and currently stable.
   -          Daily crits
   -          Monitor hematoma clinically
   4.       Leukocytosis.   Patient found to have new infiltrate on CXR on
   [**10-18**]  suggesting vent associated PNA.  Patient is C. diff negative and
   UCx showed yeast.  Blood cultures are negative to date.
   -          continue cefepime for VAP
          -         f/u blood, sputum cultures
   5.       ARF.  Patient has acute on chronic due to shock/ATN.  HD
   dependent. Unclear if pt would regain much renal function at this
   point.
   -          Appreciate renal involvement
   -          Continue HD
   -          follow electrolytes
   -          maintain MAP >65
   -          minimize IVF given
   -          renally dose meds
   -          nephrocaps
   6.       Elevated LFTs: Suspect shock liver.  Currently improving.
   Transaminases continue to improve.
   -          Will continue low dose statin for now
   7.       Coagulopathy: suspect second to DIC and hepatic dysfunction.
   INR improved with Vitamin K.
   -          ASA restarted [**10-16**]
   -          oral Vit K
   8.       Thrombocytopenia.  Labs consistent with DIC, but will check
   HIT.
   -          transfer for platelets <50 or active bleeding
   -          f/u HIT
   9.       COPD: Continue steroids at present dose.  Will not taper at
   present given plans for extubation today.  Duonebs
   10.    HTN. Titrate carvedilol as tolerate.
   11.    HL: Continue statin
   Thrush: continue nystatin
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2103-10-18**] 11:43 PM 35 mL/hour
   Glycemic Control:  FS 100s to 210s on ISS
   Lines:
   Multi Lumen - [**2103-10-11**] 05:23 PM
   Dialysis Catheter - [**2103-10-14**] 06:59 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:  son
   [**Name (NI) 66**] status: DNR / DNI
   Disposition:ICU care

2103-10-20 09:57:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   70 y/o M w/COPD, HTN, CHF, AAA, adm with GI bleed and developed
   respiratory failure and cardiogenic shock
   24 Hour Events:
   - extubated yesterday - developed worsening hypoxemia to the low 80s,
   improved with NRB, now weaned down to 6L NC.  Requiring intermittent
   suctioning.
   - HD yesterday with removal of 1 kg
   Allergies:
   Univasc (Oral) (Moexipril Hcl)
   Cough;
   Lipitor (Oral) (Atorvastatin Calcium)
   leg cramps;
   Vitamin E
   epistaxis;
   Ambien (Oral) (Zolpidem Tartrate)
   disorientatio
   Last dose of Antibiotics:
   Ceftriaxone - [**2103-10-18**] 08:00 AM
   Cefipime - [**2103-10-19**] 08:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2103-10-19**] 08:00 PM
   Fentanyl - [**2103-10-20**] 09:25 AM
   Other medications:
   Not getting po medications as unable to swallow.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Dyspnea, Tachypnea
   Gastrointestinal: Abdominal pain
   Flowsheet Data as of  [**2103-10-20**] 09:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.4
C (97.6
   HR: 78 (69 - 90) bpm
   BP: 152/73(90) {108/54(63) - 159/86(98)} mmHg
   RR: 23 (14 - 25) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
   CVP: 15 (11 - 15)mmHg
   Total In:
                                                                    848 mL
                                                                     96 mL
   PO:
   TF:
                                                                    378 mL
   IVF:
                                                                    350 mL
                                                                     96 mL
   Blood products:
   Total out:
                                                                    440 mL
                                                                     30 mL
   Urine:
                                                                     40 mL
                                                                     30 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    408 mL
                                                                     66 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Spontaneous): 557 (557 - 557) mL
   PS : 5 cmH2O
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 100%
   PIP: 11 cmH2O
   SpO2: 98%
   ABG: ///24/
   Ve: 9.8 L/min
   Physical Examination
   General Appearance: Thin, tachypneic
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: at R base although improved from yest)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent, worsening L groin hematoma,
   extending into scrotum
   Skin:  Cool
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.7 g/dL
   73 K/uL
   99 mg/dL
   4.2 mg/dL
   24 mEq/L
   4.9 mEq/L
   64 mg/dL
   108 mEq/L
   144 mEq/L
   32.0 %
   23.2 K/uL
        [image002.jpg]
                             [**2103-10-15**]  03:21 PM
                             [**2103-10-15**]  09:52 PM
                             [**2103-10-16**]  04:00 AM
                             [**2103-10-17**]  03:59 AM
                             [**2103-10-18**]  04:05 AM
                             [**2103-10-18**]  05:05 AM
                             [**2103-10-18**]  08:07 AM
                             [**2103-10-18**]  05:01 PM
                             [**2103-10-19**]  03:56 AM
                             [**2103-10-20**]  02:44 AM
   WBC
   21.6
   17.6
   23.3
   19.9
   18.6
   22.9
   21.9
   23.2
   Hct
   31.9
   33.6
   31.2
   31.6
   26.9
   25.3
   29.5
   30.4
   32.0
   Plt
   87
   70
   55
   44
   38
   84
   74
   73
   Cr
   4.8
   5.3
   4.6
   4.1
   4.2
   4.2
   TCO2
   25
   Glucose
   132
   150
   89
   154
   130
   99
   Other labs: PT / PTT / INR:16.8/38.3/1.5, CK / CKMB /
   Troponin-T:68/26/7.26, ALT / AST:402/32, Alk Phos / T Bili:103/1.8,
   Amylase / Lipase:190/19, Differential-Neuts:98.0 %, Band:0.0 %,
   Lymph:1.0 %, Mono:1.0 %, Eos:0.0 %, D-dimer:5634 ng/mL, Fibrinogen:233
   mg/dL, Lactic Acid:1.6 mmol/L, Albumin:2.9 g/dL, LDH:446 IU/L, Ca++:9.4
   mg/dL, Mg++:2.2 mg/dL, PO4:4.3 mg/dL
   Microbiology: sputum [**10-17**]: sparse GNR, not yet speciated
   Assessment and Plan
   70 y/o M w/COPD, HTN, CHF, AAA, adm with GI bleed and developed
   respiratory failure and cardiogenic shock.  Unclear what was
   precipitating event but now is hemodynamically more stable.
   1. Respiratory failure:  Was likely due to respiratory failure
   superimposed on underlying severe COPD.  Developed VAP.  Extubated
   yesterday with hypoxemia now mildly improved but still tachypneic.
   - continue cefepime
   - fentanyl prn
   - Continue inhalers, NT suctioning prn
   - further discussion regarding goals of care with brother
   2. ARF: Felt due to ATN, now on HD.
   3. CHF:  Unable to take po meds.  Cont prn hydral.
   4. L groin hematoma:  Exam slightly worse compared with yesterday.  Hct
   stable.  Will continue to monitor.
   ICU Care
   Nutrition:
   Comments: npo
   Glycemic Control:
   Lines:
   Multi Lumen - [**2103-10-11**] 05:23 PM
   Dialysis Catheter - [**2103-10-14**] 06:59 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: Will continue to discuss grim prognosis with
   his brother. [**Name (NI) 60**] institute CMO
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent:  20 minutes